US09120805B2
To a suspension of 229 mg (1.50 mmol) 4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester in 3.7 ml DMF is added 185 mg (1.65 mmol) potassium-tertbutoxide portionwise under nitrogen. The mixture is stirred for 30 minutes at room temperature and cooled to 0° C. Then 367 mg (1.50 mmol) 2-bromo-1-(1-tert-butyl-1H-pyrazol-4-yl)-ethanone is added. The mixture is stirred for 1 hour at 0° C. and for 30 minutes at room temperature. The reaction mixture is partitioned between dichloromethane and water. The organic phase is dried over sodium sulfate and evaporated. The residue is chromatographed on a silica gel column with cyclohexane/ethyl acetate to afford 1-[2-(1-tert-butyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester as yellow oil; HPLC/MS 2.82 min (B), [M+H] 318.

reactant | 4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 1.50 mmol, 229 mg | C(C)OC(=O)C=1NC=C(C1)C | C8H11NO2
reactant | potassium tertbutoxide | 1.65 mmol, 185 mg | [K].CC(C)([O-])C
reactant | 2-bromo-1-(1-tert-butyl-1H-pyrazol-4-yl)-ethanone | 1.50 mmol, 367 mg | BrCC(=O)C=1C=NN(C1)C(C)(C)C | C9H13BrN2O
solvent | DMF | 3.7 ml | CN(C)C=O | C3H7NO
product | 1-[2-(1-tert-butyl-1H-pyrazol-4-yl)-2-oxo-ethyl]-4-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C=C(C1)C)CC(=O)C=1C=NN(C1)C(C)(C)C | C17H23N3O3
